US08455488B2
Synthesis of 2-(1-allyl-2-(benzylcarbamoyl)hydrazinyl)acetic acid (Compound VI-2)
To the solution of ethyl 2-(1-allyl-2-(benzylcarbamoyl)hydrazinyl)acetate (Compound V-1) 1.31 g (4.5 mmol) in tetrahydrofuran/methanol/water (2:3:1) 24 ml, lithium hydroxide monohydrate 377 mg (9.0 mmol) was added and stirred at room temperature for 5 hour. The reaction mixture was diluted with water 25 ml and washed with ether 25 ml. The aqueous phase was acidified with 10%-citric acid 25 ml and extracted with chloroform 30 ml. The organic phase was washed with brine 25 ml and dried with magnesium sulfate then filtered. The filtrate was concentrated in vacuo to obtain the title compound 982 mg (83%).

reactant | ethyl 2-(1-allyl-2-(benzylcarbamoyl)hydrazinyl)acetate | 4.5 mmol, 1.31 g | C(C=C)N(NC(NCC1=CC=CC=C1)=O)CC(=O)OCC | C15H21N3O3
reactant | lithium hydroxide monohydrate | 9.0 mmol, 377 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran methanol water | 24 ml | O1CCCC1.CO.O
solvent | water | 25 ml | O | H2O
product | 2-(1-allyl-2-(benzylcarbamoyl)hydrazinyl)acetic acid | 982 mg, 83% | C(C=C)N(NC(NCC1=CC=CC=C1)=O)CC(=O)O | C13H17N3O3
